US06599902B2
Synthesis of 5-(3,5-Dichloro-phenylmethanesulfonyl)-3-[1-[3,5-dimethyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
5-[5-(3,5-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (120 mg, 0.24 mmol) was coupled with 1-methyl-piperazine (30 mg, 1.2 eq.) using HOBt (1.2 eq.), EDAC.HCl (1.2 eq.) and TEA (3 eq.) to give the titled compound.

reactant | 5-[5-(3,5-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 0.24 mmol, 120 mg | ClC=1C=C(C=C(C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)O)C | C23H18Cl2N2O5S
reactant | 1-methyl-piperazine | 30 mg, 1.2 eq. | CN1CCNCC1 | C5H12N2
reactant | HOBt | 1.2 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC.HCl | 1.2 eq. | CCN=C=NCCCN(C)C.Cl
product | 5-(3,5-Dichloro-phenylmethanesulfonyl)-3-[1-[3,5-dimethyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | ClC=1C=C(C=C(C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC(=C(C1C)C(=O)N1CCN(CC1)C)C | C28H28Cl2N4O4S
